US09101616B2
(R)-2-(4-cyclopropylphenoxy)-N-(1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)acet amide
To a solution of (R)-2-(4-bromophenoxy)-N-(1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)acetamide (100 mg, 0.23 mmol) and cyclopropylboronic acid (26 mg, 0.30 mmol) in dioxane (2 mL) were added 1.27 M potassium phosphate (0.36 mL) and tetrakistriphenyl phosphine palladium (13 mg, 0.012 mmol) at room temperature. The mixture was stirred at 120° C. using microwave oven for 2 hours. The mixture was dried over magnesium sulfate. After the filtration to separate solvent and magnesium sulfate, the solvent was removed under reduced pressure to give the residue. The residue was diluted with methanol and applied onto a strong cation exchange cartridge (BondElute(registered trademark) SCX, 1 g/6 mL, Varian Inc.), and the solid phase matrix was rinsed with methanol (6 mL). The crude mixture was eluted in a collection tube with 1 mol/L ammonia in methanol (6 mL) and concentrated in vacuo. The residue was purified by preparative LC-MS to give 6.5 mg, (7% yield) of the title compound.

reactant | (R)-2-(4-bromophenoxy)-N-(1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)acetamide | 0.23 mmol, 100 mg | BrC1=CC=C(OCC(=O)N[C@H](C)C2=NC=C(C=C2)OCC(F)(F)F)C=C1 | C17H16BrF3N2O3
reactant | cyclopropylboronic acid | 0.30 mmol, 26 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 1.27 M, 0.36 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | (R)-2-(4-cyclopropylphenoxy)-N-(1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)acet amide | 7% yield | C1(CC1)C1=CC=C(OCC(=O)N[C@H](C)C2=NC=C(C=C2)OCC(F)(F)F)C=C1 | C20H21F3N2O3
